* C:\Users\ryota\Documents\JPE_circuit_model\examples\JPE_3stacks_RC_modified.asc
V Ndc 0 PWL(0 0 1 3 2 0)
R_fg N006 Ndc 50
L_ext N004 N006 10m
R_ext N002 N004 1.15
L_mid N001 N002 10m
L_rad N003 N005 370.1É 
R_rad Nd N003 62.69
C_rad N005 Na 242.8p
R_gnd Na 0 7.2
VÅòT_bath N007 0 -26.295
R_th T N007 7162.3
C_th T N007 100n
R_mid Nd N001 8.29
XX1 Nd Nc T 0 1stack_rc params: M=100 N=100 I_c=100m R=100m C=100u
XX2 Nc Nb T 0 1stack_rc params: M=217/43 N=172 I_c=18m R=622m C=15.13u
XX3 Nb Na T 0 1stack_rc params: M=217/159 N=636 I_c=18.05m R=2.3 C=4.093u
XX4 Na NC_01 NC_02 NC_03 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX5 NC_04 NC_05 NC_06 NC_07 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX6 NC_08 NC_09 NC_10 NC_11 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX7 NC_12 NC_13 NC_14 NC_15 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX8 NC_16 NC_17 NC_18 NC_19 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX9 NC_20 NC_21 NC_22 NC_23 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX10 NC_24 NC_25 NC_26 NC_27 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX11 NC_28 NC_29 NC_30 NC_31 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX12 NC_32 NC_33 NC_34 NC_35 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX13 NC_36 NC_37 NC_38 NC_39 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX14 NC_40 NC_41 NC_42 NC_43 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX15 NC_44 NC_45 NC_46 NC_47 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX16 NC_48 NC_49 NC_50 NC_51 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX17 NC_52 NC_53 NC_54 NC_55 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX18 NC_56 NC_57 NC_58 NC_59 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX19 NC_60 NC_61 NC_62 NC_63 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u
XX20 NC_64 NC_65 NC_66 NC_67 1stack_rc params: M=217/15 N=40 I_c=12m R=202m C=43.39u

* block symbol definitions
.subckt 1stack_rc in out P_out P_in
BÅòIJJ in out I={I_c}*sin(V(Phi))
BÅòR_int in out I={M}*((V(in)-V(out))/({alpha}*(exp(-1*(V(P_out)-V(P_in))/{beta})+exp(-1*(V(P_out)-V(P_in))**2/{gamma}))+{delta}))
R in N001 {R}
C N001 out {C}
BÅòP P_in P_out I=abs(V(in)-V(out))*I(R_int)
BÅòI_phase 0 Phi I=(V(in)-V(out))/{N}
CÅòh/2e Phi 0 329.1p
.ends 1stack_rc

.param alpha=140.26 beta=74.429 gamma=2993.7 delta=14.966
.tran 0 2 0 10u
.ic V(Na)=0 V(Nb)=0 V(Nc)=0 V(Nd)=0
.backanno
.end
